US07470664B2
N-{[Hex-5-en-1-yl(isopropyl)amino]carbonyl}-3-methyl-L-valine was prepared according to the procedure described for N-{[isopropyl(pent-4-en-1-yl)amino]carbonyl}-3-methyl-L-valine by using 6-bromo-1-hexene in Step 1. LRMS (ESI) m/z 299 [(M+H)+; calcd for C16H31N2O3; 299.2].

reactant | N-{[isopropyl(pent-4-en-1-yl)amino]carbonyl}-3-methyl-L-valine | C(C)(C)N(C(=O)N[C@@H](C(C)(C)C)C(=O)O)CCCC=C | C15H28N2O3
reactant | 6-bromo-1-hexene | BrCCCCC=C | C6H11Br
product | N-{[Hex-5-en-1-yl(isopropyl)amino]carbonyl}-3-methyl-L-valine | C(CCCC=C)N(C(=O)N[C@@H](C(C)(C)C)C(=O)O)C(C)C | C16H30N2O3
